US04051153
(S)-6-Benzyloxy-2,5,7,8-tetramethylchroman-2-ethanol methanesulfonate
A solution of 0.5 g. (1.47 mmoles) of (S)-(-)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-ethanol and 0.25 ml. (0.37 g.; 3.2mmoles) of methanesulfonyl chloride in 5 ml. of anhydrous pyridine was kept at 0° C. for 45 hours then poured into 100 ml. of ice-water and the resulting mixture was stirred for 15 minutes. The mixture was then extracted three times with ether and the combined ether extracts were washed with cold 1 N aqueous HCl followed by water and saturated brine. After drying and filtration, the ether extracts were concentrated in vacuo giving 0.587 g. (95.6%) of (S)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-ethanol methane as a colorless solid, m.p. 81°-83° C.; [α]25D - 0.36°(c 0.82, C6H6).

reactant | (S)-(-)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-ethanol | 1.47 mmoles | C(C1=CC=CC=C1)OC=1C(=C2CC[C@](OC2=C(C1C)C)(CCO)C)C | C22H28O3
reactant | methanesulfonyl chloride | 3.2mmoles, 0.37 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | (S)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-ethanol methane | C.C(C1=CC=CC=C1)OC=1C(=C2CC[C@](OC2=C(C1C)C)(CCO)C)C
solvent | C6H6 | C1=CC=CC=C1 | C6H6
product | (S)-6-Benzyloxy-2,5,7,8-tetramethylchroman-2-ethanol methanesulfonate | CS(=O)(=O)OCC[C@]1(OC2=C(C(=C(C(=C2CC1)C)OCC1=CC=CC=C1)C)C)C | C23H30O5S
